US07732626B2
2-bromo-5-(methoxymethoxy)-1,3-dimethylbenzene
Under nitrogen atmosphere, hexane (50 mL) was added to sodium hydride (50% in oil, 12.6 g, 264 mmol). The mixture was stirred for 30 sec, and stood still, and the supernatant was removed. Tetrahydrofuran (460 mL) was added thereto, and the mixture was cooled to 0° C. A solution of 4-bromo-3,5-dimethylphenol (53.0 g, 264 mmol) in tetrahydrofuran (50 mL) was added slowly dropwise. After completion of the dropwise addition, and the mixture was stirred at 0° C. for 10 min, allowed to warm to room temperature, and was stirred for 20 min. Then, chloromethyl methyl ether (22.3 g, 277 mmol) was added slowly at room temperature, and the mixture was stirred for 24 hr. The reaction mixture was diluted with 1 M aqueous sodium hydroxide solution (80 mL). Tetrahydrofuran was evaporated under reduced pressure, and the residue was extracted with diethyl ether. The extract was washed successively with 2 M aqueous sodium hydroxide solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=0:100-10:90) to give the title compound (47.6 g, yield 74%) as a colorless oil.

reactant | hexane | 50 mL | CCCCCC | C6H14
reactant | sodium hydride | 264 mmol, 12.6 g | [H-].[Na+]
reactant | 4-bromo-3,5-dimethylphenol | 264 mmol, 53.0 g | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | chloromethyl methyl ether | 277 mmol, 22.3 g | COCCl | C2H5ClO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 M, 80 mL | [OH-].[Na+]
product | 2-bromo-5-(methoxymethoxy)-1,3-dimethylbenzene | 47.6 g, yield 74% | BrC1=C(C=C(C=C1C)OCOC)C | C10H13BrO2
